US05760054
1,1-Dioxido-2-(4-(4-(5,7-dimethyl-2-oxo-3-benzoxazolinyl)-piperidin-1-yl)-butyl)-1,2-benzisothiazol-3(2H)-one
From the hydrochloride salt of 4-(5,7-dimethyl-2-oxo-3-benzoxazolinyl)-piperidine and 2-(4-bromobutyl)-1,1-dioxido-1,2-benzothiazol-3(2H)-one using the procedure described for Example 15, Step 5 there was obtained a white solid: 1H NMR (300 MHz, CDCl3) 8.08 (d, J=7.27 Hz, 1H), 7.90 (m, 3H), 7.65 (br m, 1H), 6.752 (s, 1H), 4.55 (br m, 1H), 3.85 (br t, 2H), 3.70 (br m, 2H), 3.32 (br m, 2H), 3.10 (br m, 2H), 2.87 (br m, 2H), 2.413 (s, 3H), 2.318 (s, 3H), 2.06 (br m, 6H).

reactant | 4-(5,7-dimethyl-2-oxo-3-benzoxazolinyl)-piperidine | CC=1C=C(C2=C(N(C(O2)=O)C2CCNCC2)C1)C | C14H18N2O2
reactant | 2-(4-bromobutyl)-1,1-dioxido-1,2-benzothiazol-3(2H)-one | BrCCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | C11H12BrNO3S
product | 1,1-Dioxido-2-(4-(4-(5,7-dimethyl-2-oxo-3-benzoxazolinyl)-piperidin-1-yl)-butyl)-1,2-benzisothiazol-3(2H)-one | O=S1(N(C(C2=C1C=CC=C2)=O)CCCCN2CCC(CC2)N2C(OC1=C2C=C(C=C1C)C)=O)=O | C25H29N3O5S
